US07427613B2
Cyclopropyl-[2-(3,4-dimethylphenoxy)ethyl]amine
Synthesized according to typical procedures C and D from (3,4-dimethylphenoxy)acetic acid and cyclopropylamine.

reactant | (3,4-dimethylphenoxy)acetic acid | CC=1C=C(OCC(=O)O)C=CC1C | C10H12O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-[2-(3,4-dimethylphenoxy)ethyl]amine | C1(CC1)NCCOC1=CC(=C(C=C1)C)C | C13H19NO
